US05866589
1-Benzyl-4-[N-cyclopentyl-N-(3-nitro-2-pyridinyl)amino]piperidine
Following the general procedure of EXAMPLE 70, and making non-critical variations but substituting 1-benzyl-4-(1-cyclopentylamino)piperidine (EXAMPLE 103) for 1-benzyl-4-(methylamino)piperidine and 2-chloro-3-nitropyridine for 2-bromo-3-ethoxypyridine and using a reaction time of 2 hrs, the title compound is obtained, NMR (CDCl3) 8.26, 7.91, 7.33-7.21, 6.67, 3.78, 3.47, 2.97-2.86, 2.11, 1.98-1.75 and 1.50δ.

reactant | 1-benzyl-4-(methylamino)piperidine | C(C1=CC=CC=C1)N1CCC(CC1)NC | C13H20N2
reactant | 2-chloro-3-nitropyridine | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | 2-bromo-3-ethoxypyridine | BrC1=NC=CC=C1OCC | C7H8BrNO
product | 1-Benzyl-4-[N-cyclopentyl-N-(3-nitro-2-pyridinyl)amino]piperidine | C(C1=CC=CC=C1)N1CCC(CC1)N(C1=NC=CC=C1[N+](=O)[O-])C1CCCC1 | C22H28N4O2
